US09238647B2
Step E: Methyl 4-(4-fluorophenyl)-2-isopropyl-1H-benzimidazole-6-carboxylate
To a solution of methyl 5,6-diamino-4′-fluorobiphenyl-3-carboxylate (0.19 g, 0.73 mmol) and solid support triphenylphosphine (75% by weight; 0.77 g, 2.2 mmol) in acetonitrile (2.4 mL) was added trichloroacetonitrile (0.15 mL, 1.46 mmol). The mixture was heated in a microwave reactor for 10 min at 150° C. The mixture was cooled to ambient temperature, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (186 mg): LC-MS [M+1]=313.2.

reactant | methyl 5,6-diamino-4′-fluorobiphenyl-3-carboxylate | 0.73 mmol, 0.19 g | NC=1C=C(C=C(C1N)C1=CC=C(C=C1)F)C(=O)OC | C14H13FN2O2
reactant | triphenylphosphine | 2.2 mmol, 0.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trichloroacetonitrile | 1.46 mmol, 0.15 mL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | acetonitrile | 2.4 mL | C(C)#N | C2H3N
product | Methyl 4-(4-fluorophenyl)-2-isopropyl-1H-benzimidazole-6-carboxylate | 186 mg | FC1=CC=C(C=C1)C1=CC(=CC=2NC(=NC21)C(C)C)C(=O)OC | C18H17FN2O2
